US07153875B2
To a flask fitted with a condenser containing 1-naphthaldehyde (10 g, 64.02 mmol) was added a solution of bromine (3.3 mL, 63.83 mmol) in anhydrous chloroform (15 mL). The reaction mixture was heated under reflux for 3.5, allowed to RT and filtered. The filtrate was washed with water, brine and dried (MgSO4). After evaporation the crude product was purified on silica gel (eluant: hexanes:EtOAc, 98:2) to afford 6-bromo-1-naphthaldehyde 5.5 g (27%).

reactant | 1-naphthaldehyde | 64.02 mmol, 10 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | bromine | 63.83 mmol, 3.3 mL | BrBr | Br2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-bromo-1-naphthaldehyde | 5.5 g, 27% | BrC=1C=C2C=CC=C(C2=CC1)C=O | C11H7BrO
